2194-03-07 07:34:00 Physician Resident Progress Note
Chief Complaint: stridor, resp distress
   24 Hour Events:
 EKG - At [**2194-3-6**] 06:00 PM
 PAN CULTURE - At [**2194-3-6**] 06:00 PM
 INVASIVE VENTILATION - START [**2194-3-6**] 06:00 PM
 PICC LINE - START [**2194-3-6**] 06:27 PM
 ARTERIAL LINE - START [**2194-3-6**] 10:30 PM
 FEVER - 103.8
F - [**2194-3-6**] 06:39 PM
   Overnight, pt sedated on propofol but weaned to [**5-20**] successfully. Does
   not have a cuff leak this am
   Patient unable to provide history: Sedated
   Allergies:
   Cytarabine
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2194-3-6**] 06:00 PM
   Cefipime - [**2194-3-7**] 04:03 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Meperidine (Demerol) - [**2194-3-6**] 06:00 PM
   Pantoprazole (Protonix) - [**2194-3-6**] 08:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain [**2-17**] sedation, intubation
   Flowsheet Data as of  [**2194-3-7**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 36.2
C (97.1
   HR: 50 (50 - 164) bpm
   BP: 151/72(102) {137/70(99) - 157/78(110)} mmHg
   RR: 7 (6 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 60 Inch
           Total In:
                                                                  1,695 mL
                                                                    638 mL
   PO:
           TF:
   IVF:
                                                                  1,513 mL
                                                                    400 mL
   Blood products:
                                                                     42 mL
                                                                    238 mL
   Total out:
                                                                  1,225 mL
                                                                  2,150 mL
   Urine:
                                                                    675 mL
                                                                  2,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    470 mL
                                                                 -1,512 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 530 (500 - 530) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.43/35/190/22/0
   Ve: 5 L/min
   PaO2 / FiO2: 475
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: 2+, No(t) Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Normal
   Labs / Radiology
   104 K/uL
   9.6 g/dL
   206 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.7 mEq/L
   13 mg/dL
   109 mEq/L
   140 mEq/L
   27.2 %
   0.4 K/uL
        [image002.jpg]
                             [**2194-3-6**]  06:31 PM
                             [**2194-3-6**]  10:50 PM
                             [**2194-3-6**]  11:27 PM
                             [**2194-3-7**]  04:21 AM
                             [**2194-3-7**]  05:25 AM
   WBC
   0.7
   0.4
   Hct
   25.6
   23.8
   27.2
   Plt
   108
   104
   Cr
   0.6
   0.5
   TCO2
   24
   24
   Glucose
   203
   206
   Other labs: PT / PTT / INR:14.5/31.3/1.3, CK / CKMB / Troponin-T:475//,
   ALT / AST:61/66, Alk Phos / T Bili:148/1.1, Lactic Acid:1.8 mmol/L,
   Albumin:3.0 g/dL, LDH:1123 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ANEMIA, OTHER
   Assessment and Plan:
   78 yo Chinese male with new diagnosis [**Hospital 4230**] transferred to [**Hospital Unit Name 10**] in acute
   respiratory distress soon after cytarabine and idarubicin
   administration.
   .
   #Respiratory Distress: Patient with tachypnea, stridor, and accessory
   muscle use roughly one hour after cytarabine and idarubicin
   administration.  He was suspected to have an anaphylactic reaction and
   was given solumedrol 125mg IV X1, benadryl 25mg IV X1, epinephrine .3mg
   IM X1, and inhaled racemic epinephrine without response.  Anesthesia
   did not report airway swelling or edema during intubation, making
   anaphylaxis less likely. [**Month (only) 11**] also be from transfusion reaction, as it
   was reported that his temperature increased during transfusion today.
   Will continue with IV steroids and get chest CTA to tule out PE, given
   left lower extremity swelling.
   -Intubation
   -IV decadron
   -chest CTA
   .
   #Tachycardia: HR 160's on presentation.  [**Month (only) 11**] be secondary to fever,
   respiratory distress, and IM epinephrine.  EKG appears to be sinus
   tachycardia.  Will avoid beta blockers in setting of epinephrine
   administration.  Will bolus with fluid and consider diltiazem. Will
   also use propofol and fentanyl for sedation.
   -Fluid Bolus
   -Dilt prn
   -avoid BB
   .
   #Fever:103.2 on presentation. Patient is neutropenic.  On cefepime for
   UTI. [**Month (only) 11**] be from chemotherapy vs. infection vs. AML.  Will cover with
   Vancomycin, given PICC placement.
   -Continue cefepime
   -Add vancomycin
   -blood, sputum, urine cx.
   .
   #Echymoses:extending from left buttock to just behind knee. History of
   bone marrow biopsy last friday, complicated by left gluteal hematoma
   without active extravasation. We are unsure if the echymoses is new, or
   is a result of this hematoma 1 week ago, however, the patient did have
   a 6 point hematocrit drop overnight.  he has also received 5 units of
   prbcs since [**3-1**]. The left leg is also more swollen than the right,
   raising concern for DVT.
   -Will get pelvis and left leg CT, looking for hematoma.
   -if no PE detected on chest CTA, will get ultrasound of left leg.
   -check coags
   .
   #AML - Had first dose of cytarabine and idarubicin today.  Will not be
   able to continue given anaphylaxis. Future therapy will be per oncology
   team.
   .
   #. Anemia - Combination of AML and gluteal hematoma.  will check lysis
   labs and coags. transfuse if actively bleeding.
   .
   #.Transaminitis: Possibly form reactivation of Hep B, as is HepB core
   IgM positive.  Will touch base with Hepatology in AM, continue
   lamivudine.
   -lamivudine.
   -hepatology
   .
   #. T2DM - Insulin sliding scale
   .
   . FEN - NPO
   . PPX: Bowel regimen, protonix,  Pneumoboots
   . Dispo - ICU
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2194-3-6**] 05:51 PM
   PICC Line - [**2194-3-6**] 06:27 PM
   Arterial Line - [**2194-3-6**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2194-03-07 10:03:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   No cuff leak.
   Vascular c/s overnight.
   CT negative for PE
   Pelvic/ leg CT does not worsening of large hematoma despite hct drop
   Allergies:
   Cytarabine
   Anaphylaxis;
   Last dose of Antibiotics:
   Cefipime - [**2194-3-7**] 04:03 AM
   Vancomycin - [**2194-3-7**] 08:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Meperidine (Demerol) - [**2194-3-6**] 06:00 PM
   Pantoprazole (Protonix) - [**2194-3-6**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-7**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 34.5
C (94.1
   HR: 55 (50 - 164) bpm
   BP: 164/79(112) {137/70(99) - 168/79(112)} mmHg
   RR: 17 (6 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
           Total In:
                                                                  1,695 mL
                                                                    968 mL
   PO:
           TF:
   IVF:
                                                                  1,513 mL
                                                                    659 mL
   Blood products:
                                                                     42 mL
                                                                    238 mL
   Total out:
                                                                  1,225 mL
                                                                  2,670 mL
   Urine:
                                                                    675 mL
                                                                  2,670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    470 mL
                                                                 -1,702 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 614 (500 - 614) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.43/35/190/22/0
   Ve: 4.2 L/min
   PaO2 / FiO2: 475
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Coarse, + cuff leak: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No edema, Good pulses.
   Skin:  Significant ecchymoses L flank extending down extremitiy
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   104 K/uL
   206 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.7 mEq/L
   13 mg/dL
   109 mEq/L
   140 mEq/L
   27.2 %
   0.4 K/uL
        [image002.jpg]
                             [**2194-3-6**]  06:31 PM
                             [**2194-3-6**]  10:50 PM
                             [**2194-3-6**]  11:27 PM
                             [**2194-3-7**]  04:21 AM
                             [**2194-3-7**]  05:25 AM
   WBC
   0.7
   0.4
   Hct
   25.6
   23.8
   27.2
   Plt
   108
   104
   Cr
   0.6
   0.5
   TCO2
   24
   24
   Glucose
   203
   206
   Other labs: PT / PTT / INR:14.5/31.3/1.3, CK / CKMB / Troponin-T:475//,
   ALT / AST:61/66, Alk Phos / T Bili:148/1.1, Lactic Acid:1.8 mmol/L,
   Albumin:3.0 g/dL, LDH:1123 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CT - No acute PE.  Old recanulated PEs. L pleural based
   nodule. Posterior atelectasis.
   Microbiology: No new data.
   Assessment and Plan
   78 yo Cantonese-speaking male admitted last week with AML s/p first
   cycle of idarubucin/cytarabine with [**Hospital 4257**] transferred to [**Hospital Unit Name 10**] with
   acute resp distress requiring intubation and concerns for anaphylaxis
   or transfusion reaction.
   #Respiratory Distress: Patient with fever, tachypnea, tachycardia,
   stridor, and accessory muscle use roughly one hour after cytarabine and
   idarubicin administration and PRBC transfusion.  He was suspected to
   have an anaphylactic reaction (no airway swelling on intubation) or
   transfusion reaction.  Chest CTA without new PE.
   - Extubation now with cuff leak.
   - IV decadron today, then stop
   - F/U final CTA read regarding old PEs
   #Tachycardia: HR 160's on presentation.  [**Month (only) 11**] be secondary to fever,
   respiratory distress, and IM epinephrine.  EKG appears to be sinus
   tachycardia.  Now resolved.
   - Follow
   #Neutropenic fever: Unclear source. On cefepime for UTI, vanc for
   possible line sepsis.
   - Cefepime/vanc
   - F/U cultures
   - Trend counts
   #Echymoses:extending from left buttock to just behind knee. History of
   bone marrow biopsy last friday, complicated by left gluteal hematoma
   without active extravasation.  Vascular saw o/n
 no compartment
   syndrome.
   - F/U lenis
   - Blood products to maintain Hct of 25 / Plts of 50.
   - q8h Hct
   - IVF for elevated CK
   #AML - Had first dose of cytarabine and idarubicin yesterday. Future
   therapy will be per oncology team.
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2194-3-6**] 05:51 PM
   PICC Line - [**2194-3-6**] 06:27 PM
   Arterial Line - [**2194-3-6**] 10:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2194-03-08 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 78 yo Chinese male with new diagnosis AML, transferred
   to [**Hospital Unit Name 10**] in acute respiratory distress soon after cytarabine and
   idarubicin administration.
   24 Hour Events:
 ULTRASOUND - At [**2194-3-7**] 08:00 AM
   bilat LE
 INVASIVE VENTILATION - STOP [**2194-3-7**] 12:55 PM
   - extubated without complications, did well afterward
   - family came in, specifically son, daughter, and wife. Children wanted
   to know exactly what his oncology plan was and were anxious about
   continuing chemo, requested to speak to attending overnight; spoke to
   fellow.  We reassured them that father would not receive chemo without
   first consulting them and that the issue could be further explored in
   morning.
   - Transfused 1u for Hct 24.5 <- 27
   - received maintenance IVF for rhabdo tx
   Allergies:
   Cytarabine
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2194-3-7**] 07:53 PM
   Cefipime - [**2194-3-8**] 03:47 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-3-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-8**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 60 (54 - 70) bpm
   BP: 143/69(97) {131/61(87) - 164/80(112)} mmHg
   RR: 13 (8 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  3,741 mL
                                                                  1,522 mL
   PO:
                                                                    250 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,183 mL
                                                                  1,280 mL
   Blood products:
                                                                    238 mL
                                                                    142 mL
   Total out:
                                                                  4,130 mL
                                                                    935 mL
   Urine:
                                                                  4,130 mL
                                                                    935 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -389 mL
                                                                    587 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 450 (450 - 614) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 95%
   ABG: ///21/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   90 K/uL
   8.8 g/dL
   179 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   15 mg/dL
   114 mEq/L
   143 mEq/L
   24.5 %
   0.3 K/uL
        [image002.jpg]
                             [**2194-3-6**]  06:31 PM
                             [**2194-3-6**]  10:50 PM
                             [**2194-3-6**]  11:27 PM
                             [**2194-3-7**]  04:21 AM
                             [**2194-3-7**]  05:25 AM
                             [**2194-3-7**]  10:11 AM
                             [**2194-3-7**]  05:47 PM
                             [**2194-3-8**]  03:31 AM
   WBC
   0.7
   0.4
   0.3
   Hct
   25.6
   23.8
   27.2
   26.2
   26.6
   24.5
   Plt
   108
   104
   109
   105
   90
   Cr
   0.6
   0.5
   0.6
   TCO2
   24
   24
   Glucose
   [**Telephone/Fax (3) 4280**]
   Other labs: PT / PTT / INR:14.8/32.3/1.3, CK / CKMB / Troponin-T:440//,
   ALT / AST:49/49, Alk Phos / T Bili:114/0.5, Differential-Neuts:50.0 %,
   Band:0.0 %, Lymph:38.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8
   mmol/L, Albumin:3.0 g/dL, LDH:1123 IU/L, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   78 yo Chinese male with new diagnosis [**Hospital 4230**] transferred to [**Hospital Unit Name 10**] in acute
   respiratory distress soon after cytarabine and idarubicin
   administration.
   #Respiratory Distress: Patient with tachypnea, stridor, and accessory
   muscle use roughly one hour after cytarabine and idarubicin
   administration.  He was suspected to have an anaphylactic reaction and
   was given solumedrol 125mg IV X1, benadryl 25mg IV X1, epinephrine .3mg
   IM X1, and inhaled racemic epinephrine without response.  Anesthesia
   did not report airway swelling or edema during intubation, making
   anaphylaxis less likely. Was thought to possibly be from transfusion
   reaction, as it was reported that his temperature increased during
   transfusion- however per blood bank, there was no transfusion rxn.  CTA
   overnight ruled out PE although there were 2 v small recanulated PE
   and a pulm nodule. S/p extubation on [**2194-3-7**] and is breathing
   comfortably but etiology of respiratory distress remains unclear.
   - Continue dexamethasone
   - oncology would like to treat with chemo today; will discuss treatment
   options with family, risks/benefits of continued treatment and
   different agents
   - will stay in ICU if receiving next dose of chemo today; otherwise,
   call out to floor
   #Febrile neutropenia:103.2 on presentation. Patient is neutropenic.  On
   cefepime for UTI. [**Month (only) 11**] be from chemotherapy vs. infection vs. AML.  Will
   cover with Vancomycin, given PICC placement.
   -Continue cefepime, vanco
   -f/u blood, sputum, urine cx.
   #Echymoses:extending from left buttock to just behind knee. History of
   bone marrow biopsy last friday, complicated by left gluteal hematoma
   without active extravasation. .Had a 6 point hematocrit drop 2/18. CT
   pelvis showed no acute change in size of hematoma on prelim read.  Hct
   stabilizing, LLE LENIs neg.
   -trend Hct, plt, CK.
   #AML - Had first dose of cytarabine and idarubicin [**3-6**].  Will not be
   able to continue given anaphylaxis. Future therapy will be per oncology
   team.
   -f/u heme onc recs
   - respiratory distress mgmnt as above
   #. Anemia - Combination of AML and gluteal hematoma.
   - transfuse for Hct <25, plt<50
   #.Transaminitis: Possibly form reactivation of Hep B, as is HepB core
   IgM positive.
   - continue lamivudine.
   -f/u with hepatology
   #. T2DM - Insulin sliding scale
   FEN
 NPO for now
   PPX: Bowel regimen, protonix,  Pneumoboots
   Dispo - ICU
   ICU Care
   Nutrition: diabetic diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2194-3-6**] 05:51 PM
   PICC Line - [**2194-3-6**] 06:27 PM
   Arterial Line - [**2194-3-6**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2194-03-08 10:42:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 ULTRASOUND - At [**2194-3-7**] 08:00 AM
   bilat LE
 INVASIVE VENTILATION - STOP [**2194-3-7**] 12:55 PM
 Extubated yesterday
 unit pRBC for low hct
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   Cytarabine
   Anaphylaxis;
   Last dose of Antibiotics:
   Cefipime - [**2194-3-8**] 03:47 AM
   Vancomycin - [**2194-3-8**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-3-7**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-8**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.3
   HR: 66 (59 - 70) bpm
   BP: 146/81(108) {131/61(87) - 161/81(111)} mmHg
   RR: 18 (9 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  3,741 mL
                                                                  2,358 mL
   PO:
                                                                    250 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,183 mL
                                                                  1,908 mL
   Blood products:
                                                                    238 mL
                                                                    350 mL
   Total out:
                                                                  4,130 mL
                                                                  1,135 mL
   Urine:
                                                                  4,130 mL
                                                                  1,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -389 mL
                                                                  1,223 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Spontaneous): 450 (450 - 450) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   SpO2: 97%
   ABG: ///21/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   90 K/uL
   179 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   15 mg/dL
   114 mEq/L
   143 mEq/L
   24.5 %
   0.3 K/uL
        [image002.jpg]
                             [**2194-3-6**]  06:31 PM
                             [**2194-3-6**]  10:50 PM
                             [**2194-3-6**]  11:27 PM
                             [**2194-3-7**]  04:21 AM
                             [**2194-3-7**]  05:25 AM
                             [**2194-3-7**]  10:11 AM
                             [**2194-3-7**]  05:47 PM
                             [**2194-3-8**]  03:31 AM
   WBC
   0.7
   0.4
   0.3
   Hct
   25.6
   23.8
   27.2
   26.2
   26.6
   24.5
   Plt
   108
   104
   109
   105
   90
   Cr
   0.6
   0.5
   0.6
   TCO2
   24
   24
   Glucose
   [**Telephone/Fax (3) 4280**]
   Other labs: PT / PTT / INR:14.8/32.3/1.3, CK / CKMB / Troponin-T:440//,
   ALT / AST:49/49, Alk Phos / T Bili:114/0.5, Differential-Neuts:50.0 %,
   Band:0.0 %, Lymph:38.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8
   mmol/L, Albumin:3.0 g/dL, LDH:1123 IU/L, Ca++:8.2 mg/dL, Mg++:2.3
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Assessment and Plan
   78 yo Cantonese-speaking male admitted last week with AML s/p first
   cycle of idarubucin/cytarabine with [**Hospital 4257**] transferred to [**Hospital Unit Name 10**] with
   acute resp distress requiring intubation and concerns for anaphylaxis
   or transfusion reaction.
   #Respiratory Distress:
   - now resolved
   - extubated, doing well
   - etiology remains unclear
   - Off IV decadron today
    #Tachycardia:
   -resolved
   #Neutropenic fever:
   - afebrile x 24hr
   - Cefepime/vanc empiric pending cx data
   - F/U cultures
   - Trend counts - still neutropenic
   #Echymoses:extending from left buttock to just behind knee. History of
   bone marrow biopsy last friday, complicated by left gluteal hematoma
   without active extravasation.  Vascular saw o/n
 no compartment
   syndrome.
   - F/U negative
   #AML:
   - Heme team following
   - Family concerned re: future chemo - want to discuss with heme/onc
   folks prior to restart
   - Blood products to maintain Hct of 25 / Plts of 50.
   - q8h Hct
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2194-3-6**] 05:51 PM
   PICC Line - [**2194-3-6**] 06:27 PM
   Arterial Line - [**2194-3-6**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2194-03-09 07:53:00 Physician Resident Progress Note
Chief Complaint: stridor, resp distress
   24 Hour Events:
   -Afternoon Hct and CK improved
   -Family in discussion with BMT attg decided to continue with 7+3 plan
   believing clinical situation not extremely consistent with anyphylaxis
   -Patient received chemotherapy w/o event
   History obtained from Patient
   Allergies:
   History obtained from PatientCytarabine
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2194-3-8**] 08:10 PM
   Cefipime - [**2194-3-9**] 04:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-3-8**] 08:10 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain. Limited [**2-17**] language barrier
   Flowsheet Data as of  [**2194-3-9**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.2
   HR: 70 (58 - 78) bpm
   BP: 158/67(99) {138/62(88) - 158/81(109)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  6,043 mL
                                                                  1,853 mL
   PO:
                                                                  1,080 mL
                                                                    400 mL
   TF:
   IVF:
                                                                  4,613 mL
                                                                  1,453 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,675 mL
                                                                  2,120 mL
   Urine:
                                                                  3,675 mL
                                                                  2,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,368 mL
                                                                   -267 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   fine crackles at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   99 K/uL
   9.4 g/dL
   107 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.3 mEq/L
   14 mg/dL
   113 mEq/L
   140 mEq/L
   26.8 %
   0.3 K/uL
        [image002.jpg]
                             [**2194-3-6**]  06:31 PM
                             [**2194-3-6**]  10:50 PM
                             [**2194-3-6**]  11:27 PM
                             [**2194-3-7**]  04:21 AM
                             [**2194-3-7**]  05:25 AM
                             [**2194-3-7**]  10:11 AM
                             [**2194-3-7**]  05:47 PM
                             [**2194-3-8**]  03:31 AM
                             [**2194-3-8**]  02:30 PM
                             [**2194-3-9**]  04:47 AM
   WBC
   0.7
   0.4
   0.3
   0.4
   0.3
   Hct
   25.6
   23.8
   27.2
   26.2
   26.6
   24.5
   28.1
   26.8
   Plt
   108
   104
   109
   105
   90
   99
   99
   Cr
   0.6
   0.5
   0.6
   0.5
   TCO2
   24
   24
   Glucose
   [**Telephone/Fax (3) 4293**]07
   Other labs: PT / PTT / INR:14.8/30.9/1.3, CK / CKMB / Troponin-T:236//,
   ALT / AST:41/34, Alk Phos / T Bili:100/0.5, Differential-Neuts:62.0 %,
   Band:0.0 %, Lymph:36.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8
   mmol/L, Albumin:3.0 g/dL, LDH:763 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ANEMIA, OTHER
   78 yo Chinese male with new diagnosis [**Hospital 4230**] transferred to [**Hospital Unit Name 10**] in acute
   respiratory distress soon after cytarabine and idarubicin
   administration.
   #Respiratory Distress: Patient with tachypnea, stridor, and accessory
   muscle use roughly one hour after cytarabine and idarubicin
   administration.  He was suspected to have an anaphylactic reaction and
   was given solumedrol 125mg IV X1, benadryl 25mg IV X1, epinephrine .3mg
   IM X1, and inhaled racemic epinephrine without response.  Anesthesia
   did not report airway swelling or edema during intubation, making
   anaphylaxis less likely. Was thought to possibly be from transfusion
   reaction, as it was reported that his temperature increased during
   transfusion- however per blood bank, there was no transfusion rxn.  CTA
   overnight ruled out PE although there were 2 v small recanulated PE
   and a pulm nodule. S/p extubation on [**2194-3-7**] and is breathing
   comfortably but etiology of respiratory distress remains unclear.
   - Continue dexamethasone
   - oncology would like to treat with chemo today; will discuss treatment
   options with family, risks/benefits of continued treatment and
   different agents
   - will stay in ICU if receiving next dose of chemo today; otherwise,
   call out to floor
   #Febrile neutropenia:103.2 on presentation. Patient is neutropenic.  On
   cefepime for UTI. [**Month (only) 11**] be from chemotherapy vs. infection vs. AML.  Will
   cover with Vancomycin, given PICC placement.
   -Continue cefepime, vanco
   -f/u blood, sputum, urine cx.
   #Echymoses:extending from left buttock to just behind knee. History of
   bone marrow biopsy last friday, complicated by left gluteal hematoma
   without active extravasation. .Had a 6 point hematocrit drop 2/18. CT
   pelvis showed no acute change in size of hematoma on prelim read.  Hct
   stabilizing, LLE LENIs neg.
   -trend Hct, plt, CK.
   #AML - Had first dose of cytarabine and idarubicin [**3-6**].  Will not be
   able to continue given anaphylaxis. Future therapy will be per oncology
   team.
   -f/u heme onc recs
   - respiratory distress mgmnt as above
   #. Anemia - Combination of AML and gluteal hematoma.
   - transfuse for Hct <25, plt<50
   #.Transaminitis: Possibly form reactivation of Hep B, as is HepB core
   IgM positive.
   - continue lamivudine.
   -f/u with hepatology
   #. T2DM - Insulin sliding scale
   FEN
 NPO for now
   PPX: Bowel regimen, protonix,  Pneumoboots
   Dispo - ICU
   ICU Care
   Nutrition: reg diabetic diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2194-3-6**] 05:51 PM
   PICC Line - [**2194-3-6**] 06:27 PM
   Arterial Line - [**2194-3-6**] 10:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2194-03-09 11:44:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Chemo administered yesterday w/o adverse effect/recurrence of sx
   History obtained from Medical records
   Patient unable to provide history: Language barrier, cantonese
   Allergies:
   Cytarabine
   Anaphylaxis;
   Last dose of Antibiotics:
   Cefipime - [**2194-3-9**] 04:00 AM
   Vancomycin - [**2194-3-9**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2194-3-8**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2194-3-9**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35
C (95
   HR: 66 (58 - 82) bpm
   BP: 162/81(113) {140/62(88) - 162/81(113)} mmHg
   RR: 16 (13 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  6,043 mL
                                                                  2,855 mL
   PO:
                                                                  1,080 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  4,613 mL
                                                                  2,255 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,675 mL
                                                                  2,640 mL
   Urine:
                                                                  3,675 mL
                                                                  2,640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,368 mL
                                                                    215 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: 1+, No(t) Cyanosis
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   99 K/uL
   107 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.3 mEq/L
   14 mg/dL
   113 mEq/L
   140 mEq/L
   26.8 %
   0.3 K/uL
        [image002.jpg]
                             [**2194-3-6**]  06:31 PM
                             [**2194-3-6**]  10:50 PM
                             [**2194-3-6**]  11:27 PM
                             [**2194-3-7**]  04:21 AM
                             [**2194-3-7**]  05:25 AM
                             [**2194-3-7**]  10:11 AM
                             [**2194-3-7**]  05:47 PM
                             [**2194-3-8**]  03:31 AM
                             [**2194-3-8**]  02:30 PM
                             [**2194-3-9**]  04:47 AM
   WBC
   0.7
   0.4
   0.3
   0.4
   0.3
   Hct
   25.6
   23.8
   27.2
   26.2
   26.6
   24.5
   28.1
   26.8
   Plt
   108
   104
   109
   105
   90
   99
   99
   Cr
   0.6
   0.5
   0.6
   0.5
   TCO2
   24
   24
   Glucose
   [**Telephone/Fax (3) 4293**]07
   Other labs: PT / PTT / INR:14.8/30.9/1.3, CK / CKMB / Troponin-T:236//,
   ALT / AST:41/34, Alk Phos / T Bili:100/0.5, Differential-Neuts:62.0 %,
   Band:0.0 %, Lymph:36.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.8
   mmol/L, Albumin:3.0 g/dL, LDH:763 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
   78 yo Cantonese-speaking male admitted last week with AML s/p first
   cycle of idarubucin/cytarabine with [**Hospital 4257**] transferred to [**Hospital Unit Name 10**] with
   acute resp distress requiring intubation and concerns for anaphylaxis
   or transfusion reaction.
   #Respiratory Distress:
   - now resolved
   - extubated, doing well x 2 days
   - etiology remains unclear
   #Tachycardia:
   -resolved
   #Neutropenic fever:
   - afebrile x 48hr
   - Cefepime/vanc empiric pending cx data
   - F/U cultures
   - Trend counts - still neutropenic
   #Echymoses:
   - extending from left buttock to just behind knee. History of bone
   marrow biopsy last friday, complicated by left gluteal hematoma without
   active extravasation.
   - Vascular saw
 no compartment syndrome.
   #AML:
   - Heme team following
   - Chemo restarted yesterday w/o adverse effect
   - Blood products to maintain Hct of 25 / Plts of 50.
   - q8h [**Hospital 4297**]
   Transfer to floor
   Other issues per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2194-3-6**] 05:51 PM
   PICC Line - [**2194-3-6**] 06:27 PM
   Arterial Line - [**2194-3-6**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent: